* SCT3060AL
* SiC NMOSFET model
* 650V 39A 60mOhm
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2017/03/03
******************D G S
.SUBCKT SCT3060AL 1 2 3
.PARAM T0=25
.FUNC R1(I)     {41.36m*I*EXP((TEMP-T0)/238.2)+21.52u*I*ABS(I)**1.614*EXP((TEMP-T0)/-2464)}
.FUNC R2(I)     {I*(3.6*(1+TANH(I))/2+2.1*(1-TANH(I))/2)}
.FUNC V1(V,W)   {V-216.3m*ASINH(W/0.06749)*EXP((TEMP-T0)/-422.0)-
+                670.1m*ASINH(W/1.918)*EXP((TEMP-T0)/-2874)-40.27m*W*EXP((TEMP-T0)/462.8)}
.FUNC V2(V)     {77.46f*V**(16.18*EXP((TEMP-T0)/4501))*EXP((TEMP-T0)/37.82*EXP((TEMP-T0)/-1787))}
.FUNC V3(V)     {57.62*SINH(V/57.62)}
.FUNC I1(V,W)   {V3(V)*(1+2.993*(TANH((V3(V)-18.71)/23.25)+1)*EXP((TEMP-T0)/-155.4)/10)*
+                W/(ABS(W)+2.993*(TANH((V3(V)-18.71)/23.25)+1)*EXP((TEMP-T0)/-155.4))}
.FUNC C1(U,V,W) {(281.7*V+707.5*(1-W/1.094)**-0.4356)*(0.1472*TANH((U+7.331)/2.400)+0.8528)}
V1  1 11 0
E1 11 12 VALUE={R1(MIN(MAX(I(V1),-2.5k),2.5k))}
V2  2 21 0
E2 21 22 VALUE={R2(I(V2))}
L1  3 32 6.5n
R2  3 32 10
E3 41  0 VALUE={V1(MIN(MAX(V(22,32),0),22),MIN(MAX(V(42),0),400))}
E4 42  0 VALUE={V2(MIN(MAX(V(41),0),25))}
G1 12 32 VALUE={I1(MIN(MAX(V(42),0),400),V(12,32))}
R3 12 32 1T
V3 22 23 0
C1 23 12 1p
G2 22 12 VALUE={I(V3)*C1(V(22,12),MIN(MAX(V(22,12),0),1.84),MIN(V(22,12),0))}
C2 22 32 748.7p
R4 22  3 1G
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
.FUNC R11(I)   {80.63m*ASINH(I/0.3144)*EXP((TEMP-T0)/222.7)+61.10m*I*EXP((TEMP-T0)/714.6)}
.FUNC I11(V)   {50.45n*(EXP(V/0.1059/EXP((TEMP-T0)/-305.0))-1)*EXP((TEMP-T0)/-67.34*EXP((TEMP-T0)/944.7))-
+               1u*TANH(-V/0.1)*EXP((TEMP-T0)/180.3)-231.9E-21*(EXP(-V/25)-1)*EXP((TEMP-T0)/-200)}
.FUNC C11(V,W) {382.3*(V-1.127)+602.0*(1-W/2.255)**-0.5046}
V11 32 51 0
E11 51 52 VALUE={R11(MIN(MAX(I(V11),-150k),200k))}
V12 52 53 0
C11 53  1 1p
G11 52  1 VALUE={I11(MIN(MAX(V(52,1),-2k),5))+I(V12)*C11(MAX(V(52,1),1.127),MIN(V(52,1),1.127))}
R11 52  1 1T
.ENDS SCT3060AL